US08404856B2
Step 2: 1-[(6-amino-1H-pyrazolo[3,4-b]pyridin-3-yl)methyl]-3-(3,5-dichlorophenoxy)-4-(trifluoromethyl)pyridin-2(1H)-one 20-2
3-(3,5-dichlorophenoxy)-1-({1-(4-methoxybenzyl)-6-[(4-methoxybenzyl)amino]-1H-pyrazolo[3,4-b]pyridine-3-yl}methyl)-4-(trifluoromethyl)pyridine-2(1H)-one (0.900 g, 12.7 mmol) dissolved in TFA (10 mL) was placed in an oil bath at 75° C. After 4 hours, the reaction mixture was diluted with ethyl acetate (100 mL), washed with 50% aqueous sodium carbonate (50 mL). The aqueous was back extracted with ethyl acetate (100 mL) and the combined organic extracts were dried (MgSO4), filtered and the solvent was evaporated under reduced pressure. The resulting solid was adsorbed onto silica gel and purified by column chromatography on a pre-packed silica gel Redi Sep 40 gram column, eluting with 0-5% methanol in CH2Cl2 to afford the title compound. 1H NMR (DMSO-d6) δ 12.60 (s, 1H), 8.00-7.90 (m, 1H), 7.65-7.50 (m, 1H), 7.40-7.30 (m, 1H), 7.12-7.00 (m, 2H), 6.65-6.55 (m, 1H), 6.42-6.25 (m, 3H), 5.40-5.30 (s, 2H). LRMS (M+1)=469.77.

reactant | 3-(3,5-dichlorophenoxy)-1-({1-(4-methoxybenzyl)-6-[(4-methoxybenzyl)amino]-1H-pyrazolo[3,4-b]pyridine-3-yl}methyl)-4-(trifluoromethyl)pyridine-2(1H)-one | 12.7 mmol, 0.900 g | ClC=1C=C(OC=2C(N(C=CC2C(F)(F)F)CC2=NN(C3=NC(=CC=C32)NCC3=CC=C(C=C3)OC)CC3=CC=C(C=C3)OC)=O)C=C(C1)Cl | C35H28Cl2F3N5O4
solvent | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 1-[(6-amino-1H-pyrazolo[3,4-b]pyridin-3-yl)methyl]-3-(3,5-dichlorophenoxy)-4-(trifluoromethyl)pyridin-2(1H)-one | NC1=CC=C2C(=N1)NN=C2CN2C(C(=C(C=C2)C(F)(F)F)OC2=CC(=CC(=C2)Cl)Cl)=O | C19H12Cl2F3N5O2
